US04287195
A mixture of 8 parts of phenyl [4-(4-methoxyphenyl)-1-piperazinyl]carbamate, 15 parts of hydrazine and 50 parts of 1,4-dioxane is stirred and refluxed for 4 hours. The reaction mixture is evaporated. The residue is triturated in 2-propanol. The product is filtered off and crystallized from 1-butanol, yielding 6.5 parts (84%) of N-[4-(4-methoxyphenyl)-1-piperazinyl]hydrazinecarboxamide.

reactant | phenyl [4-(4-methoxyphenyl)-1-piperazinyl]carbamate | COC1=CC=C(C=C1)N1CCN(CC1)NC(OC1=CC=CC=C1)=O | C18H21N3O3
reactant | hydrazine | NN | H4N2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[4-(4-methoxyphenyl)-1-piperazinyl]hydrazinecarboxamide | 84% | COC1=CC=C(C=C1)N1CCN(CC1)NC(=O)NN | C12H19N5O2
